US07105544B2
2-(4-CHLOROPHENYL)-2-METHYL-N-(3-{4-[3-(PROPIONYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)PROPANAMIDE
Example 7 was prepared from 2-(4-chlorophenyl)-2-methylpropanoic acid and N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}propanamide according to the procedures described in Scheme 10: 1H NMR (400 MHz, CDCl3) δ 7.86 (s, 1H), 7.50 (s, 1H), 7.34–7.19 (m, 6H), 6.96 (d, 1H, J=7.8 Hz), 6.72–6.67 (m, 1H), 3.42 (q, 2H, J=7.1 Hz), 3.31 (q, 3H, J=5.4 Hz), 2.49–2.35 (m, 5H), 2.08–1.95 (m, 2H), 1.82–1.74 (m, 2H), 1.71–1.62 (m, 3H), 1.56 (s, 6H), 1.24 (t, 3H, J=7.8 Hz); ESMS m/e: 470.3 (M+H)+.

reactant | 2-(4-chlorophenyl)-2-methylpropanoic acid | ClC1=CC=C(C=C1)C(C(=O)O)(C)C | C10H11ClO2
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}propanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(CC)=O | C17H27N3O
product | 2-(4-CHLOROPHENYL)-2-METHYL-N-(3-{4-[3-(PROPIONYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)PROPANAMIDE | ClC1=CC=C(C=C1)C(C(=O)NCCCN1CCC(CC1)C1=CC(=CC=C1)NC(CC)=O)(C)C | C27H36ClN3O2
